US08471005B2
(4-Methyl-piperazin-1-yl)-(3-nitro-phenyl)-methanone (2.46 g, 9.87 mmol) was dissolved in Ethanol (30.0 mL, 514 mmol) and the solution was carefully added to a Parr vessel containing 10% Palladium on Carbon (0.750 g, 56.2 mmol) under nitrogen. The mixture was then placed on a Parr hydrogenation apparatus and was allowed to shake at 55 psi until uptake of hydrogen ceased. The catalyst was then filtered to afford 1.75 g of (3-Amino-phenyl)-(4-methyl-piperazin-1-yl)-methanone without further purification. (M+H)=220.6.

reactant | (4-Methyl-piperazin-1-yl)-(3-nitro-phenyl)-methanone | 9.87 mmol, 2.46 g | CN1CCN(CC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C12H15N3O3
reactant | Ethanol | 514 mmol, 30.0 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on Carbon | 56.2 mmol, 0.750 g | [Pd] | Pd
product | (3-Amino-phenyl)-(4-methyl-piperazin-1-yl)-methanone | 1.75 g | NC=1C=C(C=CC1)C(=O)N1CCN(CC1)C | C12H17N3O
